US04698340
The mixture of 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid (5 g), triethylamine (1.5 g) and diphenylphosphoyrylazide (4.1 g) in benzene was refluxed for 2 hours and 2-dimethylaminoethylamine (1.6 g) was added. After continuing the reflux for 2 hours, the reaction mixture was poured into a mixture of Diethylether (100 ml) and saturated sodium hydrogen carbonate (50 ml). The separated organic layer was dried over magnesium sulfate and evaporated in vacuo. The residual substance was column-chromatographed on alumina. The eluted active fraction with chloroform was concentrated in vacuo and added 0.1 mole hydrochloric acid in isopropyl ether. The resulted crystalline was collected and washed with diethyl ether, dried to give 5-[3-(2-dimethylaminoethyl)ureido]-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine hydrochloride (0.98 g).

reactant | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid | 5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C18H13N3O4
reactant | 2-dimethylaminoethylamine | 1.6 g | CN(CCN)C | C4H12N2
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 0.1 mole | Cl | ClH
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | Diethylether | 100 ml | C(C)OCC | C4H10O
product | 5-[3-(2-dimethylaminoethyl)ureido]-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine hydrochloride | 0.98 g | Cl.CN(CCNC(NC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])=O)C | InChI=1S/C22H24N6O3.ClH/c1-15-19(26-22(29)23-12-13-27(2)3)20(17-10-7-11-18(14-17)28(30)31)25-21(24-15)16-8-5-4-6-9-16;/h4-11,14H,12-13H2,1-3H3,(H2,23,26,29);1H
